US08975415B2
A mixture of tert-butyl (6′-{[(5-chloropyridin-2-yl)carbonyl]amino}-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)carbamate (217 mg, 0.410 mmol), silica gel (neutral; 651 mg), and toluene (4 mL) was stirred for 80 minutes at 120° C. The reaction mixture was cooled down to ambient temperature and concentrated at reduced pressure. Purification of the residue with column chromatography on silica gel (eluted with EtOH/CHCl3=0/100 to 20/80) afforded N-(2-amino-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-6′-yl)-5-chloropyridine-2-carboxamide (144 mg).

reactant | tert-butyl (6′-{[(5-chloropyridin-2-yl)carbonyl]amino}-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-yl)carbamate | 0.410 mmol, 217 mg | ClC=1C=CC(=NC1)C(=O)NC=1C=C2C3(N=C(OC3)NC(OC(C)(C)C)=O)C3(COC3)C(OC2=CC1)(C)C | C26H29ClN4O6
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-amino-2′,2′-dimethyldispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-6′-yl)-5-chloropyridine-2-carboxamide | 144 mg | NC=1OCC2(C3=CC(=CC=C3OC(C23COC3)(C)C)NC(=O)C3=NC=C(C=C3)Cl)N1 | C21H21ClN4O4
